US08431575B2
To a stirred solution of 4-hydroxy-3-(toluene-4-sulfonyloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester (8.56 mmol, 3.3 g) in DMF (20 mL) was added sodium azide (35.28 mmol, 2.34 g), and the reaction mixture was stirred at 80-90° C. for 16 h. The reaction mixture was cooled to room temperature, diluted with DCM (200 mL), washed with water, and the organic layer was dried and concentrated under reduced pressure. The residue was purified by flash silica gel column chromatography by eluting with ethyl acetate in hexanes (1:1) to provide 3-azidomethyl-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 4-hydroxy-3-(toluene-4-sulfonyloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester | 8.56 mmol, 3.3 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)O)COS(=O)(=O)C1=CC=C(C=C1)C | C18H27NO6S
reactant | sodium azide | 35.28 mmol, 2.34 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-azidomethyl-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)O)CN=[N+]=[N-] | C11H20N4O3
